US06660742B2
Methyl 3,4-diaminobenzoate (0.73 g, 4.42 mmol), 4-(diethylamino)benzaldehyde (3.0 g, 16.9 mmol) were dissolved in nitrobenzene (30 mL) and refluxed on a 145° C. oil bath overnight. The nitrobenzene was then removed in vacuo using a Kugelrohr apparatus (60° C., 0.1 mm Hg). The remaining oily residue was dissolved in CHCl3 and washed with water (3×50 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated. The crude oil was then purified through colurnn chromatography using a solvent system of 1% MeOH/CHCl3 to give methyl 2-(4-(N,N-diethyl)aminophenyl)benzimidazole-6-carboxylate as a yellowish solid (1.17 g, 82% yield). TLC (2.5% MeOH/CHCl3) Rf=0.26; 1H-NMR (500 MHz, CDCl3) 9.87 (s br, 1H), 8.30 (s br, 1H), 7.94 (dd, 1.5, 8.5, 1H), 7.91 (d, 8.5, 2H), 7.60 (s br, 1H), 6.72 (d, 8.5, 2H), 3.42 (q, 7.0, 4H), 1.21 (t, 7.0, 6H); IR (neat) 3508, 2063, 2920, 1712, 1611, 1504, 1434, 1360, 1307, 1269, 1205, 1157, 1082, 1008, 821, 751.

reactant | Methyl 3,4-diaminobenzoate | 4.42 mmol, 0.73 g | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
reactant | 4-(diethylamino)benzaldehyde | 16.9 mmol, 3.0 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
solvent | nitrobenzene | 30 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | methyl 2-(4-(N,N-diethyl)aminophenyl)benzimidazole-6-carboxylate | 1.17 g, 82% yield | C(C)N(CC)C1=CC=C(C=C1)C=1NC2=C(N1)C=C(C=C2)C(=O)OC | C19H21N3O2
